US07553850B2
3-Bromo-xanthen-9-one (0.25 g, 0.9 mmol), 2-acetamidophenylboronic acid (0.99 mmol), 1,1′-bis-(diphenylphosphino)ferrocene-palladium (II) dichloride (33 mg, 0.045 mmol), cesium carbonate (0.59 g, 1.8 mmol), dioxane (4 mL), and ethanol (2 mL) were microwaved in a 5-mL reaction vessel at 100° C. for 5 min. The reaction was filtered and concentrated. The residue was purified by reverse phase chromatography to afford N-[2-(9-Oxo-9H-xanthen-3-yl)-phenyl]-acetamide.

reactant | 3-Bromo-xanthen-9-one | 0.9 mmol, 0.25 g | BrC=1C=CC=2C(C3=CC=CC=C3OC2C1)=O | C13H7BrO2
reactant | 2-acetamidophenylboronic acid | 0.99 mmol | C(C)(=O)NC1=C(C=CC=C1)B(O)O | C8H10BNO3
reactant | cesium carbonate | 1.8 mmol, 0.59 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | dioxane | 4 mL | O1CCOCC1 | C4H8O2
catalyst | 1,1′-bis-(diphenylphosphino)ferrocene-palladium (II) dichloride | 0.045 mmol, 33 mg | [Pd](Cl)Cl.C1(=CC=CC=C1)P([C-]1C=CC=C1)C1=CC=CC=C1.[C-]1(C=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1.[Fe+2]
solvent | ethanol | 2 mL | C(C)O | C2H6O
product | N-[2-(9-Oxo-9H-xanthen-3-yl)-phenyl]-acetamide | O=C1C2=CC=CC=C2OC=2C=C(C=CC12)C1=C(C=CC=C1)NC(C)=O | C21H15NO3
